US07511144B2
To a solution of 10.0 g (62.0 mmol) of 6-fluoro-2-methylquinoline and 28.3 g (124.0 mmol) of ammonium peroxodisulfate in a mixture of methanol (140 mL)-water (110 mL) was added 4.0 mL of concentrated sulfuric acid, and heated under reflux for 18 hours. The reaction mixture was left to cool, and methanol was removed under a reduced pressure. The residue was adjusted to pH 10 by adding sodium carbonate, and then extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was removed to obtain 9.61 g (yield 81%) of (6-fluoro-2-methylquinolin-4-yl)methanol. Its physical properties are shown below.

reactant | 6-fluoro-2-methylquinoline | 62.0 mmol, 10.0 g | FC=1C=C2C=CC(=NC2=CC1)C | C10H8FN
reactant | ammonium peroxodisulfate | 124.0 mmol, 28.3 g | [NH4+].[NH4+].[O-]S(=O)(=O)OOS(=O)(=O)[O-]
reactant | water | 110 mL | O | H2O
reactant | sulfuric acid | 4.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 140 mL | CO | CH4O
product | (6-fluoro-2-methylquinolin-4-yl)methanol | 9.61 g, yield 81% | FC=1C=C2C(=CC(=NC2=CC1)C)CO | C11H10FNO
